US08030334B2
N-((5-Bromopyridin-3-yl)methyl)-1-(ethylsulfonyl)ethanesulfonamide and N-methyl-indole-2-boronic acid are processed according to the procedure described in Example 100 to give N-(ethylsulfonyl)-N-((5-(1-methyl-1H-indol-2-yl)pyridin-3-yl)methyl)ethanesulfonamide. MS (ESI) m/z 422.0 (M+H)+.

reactant | N-((5-Bromopyridin-3-yl)methyl)-1-(ethylsulfonyl)ethanesulfonamide | BrC=1C=C(C=NC1)CNS(=O)(=O)C(C)S(=O)(=O)CC | C10H15BrN2O4S2
reactant | N-methyl-indole-2-boronic acid | CN1C(=CC2=CC=CC=C12)B(O)O | C9H10BNO2
product | N-(ethylsulfonyl)-N-((5-(1-methyl-1H-indol-2-yl)pyridin-3-yl)methyl)ethanesulfonamide | C(C)S(=O)(=O)N(S(=O)(=O)CC)CC=1C=NC=C(C1)C=1N(C2=CC=CC=C2C1)C | C19H23N3O4S2
